US05712300
Preparation of α-[[[(4-Methoxyphenyl)sulfonyl]amino]methyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic acid
A cold (0° C.) solution of tert-butyl α-[[[(4-methoxyphenyl)sulfonyl]amino]methyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (374 mg, 0.669 mmol) in CH2 Cl2 (2 mL) is treated with TFA (2 mL). The solution is maintained at 0° C. for 40 min and then allowed to warm to room temperature under N2. After 1.5 hours, the solution is diluted with CH2Cl2 and stripped (5×). The residual foam is diluted with H2O (5 mL) and extracted into CH2Cl2 (3×20 mL). The extracts are combined, dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to provide 301 mg (90%) of the title compound as a white, amorphous solid:

reactant | tert-butyl α-[[[(4-methoxyphenyl)sulfonyl]amino]methyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 0.669 mmol, 374 mg | COC1=CC=C(C=C1)S(=O)(=O)NCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C30H42N2O6S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Cl2 | 2 mL | ClCl | Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | 5 mL | O | H2O
product | α-[[[(4-Methoxyphenyl)sulfonyl]amino]methyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic acid | 301 mg, 90% | COC1=CC=C(C=C1)S(=O)(=O)NCC(C(=O)O)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C26H34N2O6S
